### PR TITLE
[StrongPNT]: zeta bounds near the Re(s)=3/2 line

### PR DESCRIPTION
**Pull request by prestontranbarger**

### CODE REVIEW

File: PrimeNumberTheoremAnd/StrongPNT.lean [hunk 1]
```diff
@@ -1414,21 +1722,24 @@ blueprint_comment /--
...
+  -/)
+  (proof := /--
     We know that $\cos(2\theta)=2\cos^2\theta-1$, thus
     $$3+4\cos\theta+\cos2\theta=2+4\cos\theta+2\cos^2\theta=2\,(1+\cos\theta)^2.$$
     Noting that $0\leq 1+\cos\theta$ completes the proof.
-\end{proof}
--/
+  -/)
+  (latexEnv := "lemma")]
+lemma ThreeFourOneTrigIdentity (θ : ℝ) :
```
Comment (prestontranbarger) [inline PrimeNumberTheoremAnd/StrongPNT.lean]: need to remove this

File: PrimeNumberTheoremAnd/StrongPNT.lean [hunk 2]
```diff
@@ -1116,94 +1133,134 @@ blueprint_comment /--
...
+            sub_self, div_ofNat_re, re_ofNat, neg_div', add_zero]
+          rw [← Real.norm_of_nonneg this, ← Complex.norm_real, Complex.ofReal_add, Complex.ofReal_cpow (cast_nonneg' ↑p)]
+          push_cast; rfl
+  · exact norm_pos_iff.mpr (hne h₂)
+  · exact mul_pos (norm_pos_iff.mpr (hne h₃)) (norm_pos_iff.mpr (hne h₁))
+
+
+
+@[blueprint "riemannZeta01"
+  (title := "riemannZeta01")
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/StrongPNT.lean]: Hmm I realize we have `riemannZeta` and `riemannZeta0` so maybe this should just be `riemannZeta1`? It's a little funny to see `ζ₀₁` instead of perhaps just `ζ₁`? (Or is the latter already taken? In which case maybe `riemannZeta2` could work?)

Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/StrongPNT.lean]: I have gone ahead and changed it to riemannZeta1 and ζ₁.

**Review by AlexKontorovich — APPROVED** [review]
Great thanks!
